US09428510B2
A solution of 663 mg (1.078 mmol) of oxone in 1.1 ml of water is added to a solution of 300 mg (1.078 mmol) of 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine in 10 ml of a 1:1 mixture of tetrahydrofuran and methanol at 0° C. The reaction mixture is stirred at room temperature for 16 hours. An additional portion of 663 mg of oxone at 0° C. is then added and the reaction medium stirred at room temperature for 24 hours. The solvents are evaporated and the reaction medium is diluted with sodium bicarbonate solution, extracted with ethyl acetate, dried on MgSO4 and then concentrated to yield 340 mg (81%) of 5-(3,5-difluorophenylsulfonyl)-1H-pyrazolo[3,4-b]pyridin-3-amine in the form of a yellow solid.

reactant | oxone | 1.078 mmol, 663 mg | OOS(=O)[O-].[K+]
reactant | 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine | 1.078 mmol, 300 mg | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2N | C12H8F2N4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
reactant | oxone | 663 mg | OOS(=O)[O-].[K+]
reactant | water | 1.1 ml | O | H2O
product | 5-(3,5-difluorophenylsulfonyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | 340 mg, 81% | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NC1)NN=C2N | C12H8F2N4O2S
